US05424446
(+)-(4R)-1-Acetyl-4-acetylthio-2-pyrrolidone (6 g) is dissolved in 5% hydrogen chloride-methanol solution, and the mixture is stirred at room temperature for 25 minutes. The mixture is evaporated to remove the solvent, and the residue is subjected to azeotropic distillation with toluene. To the residue is added acetyl chloride (6 ml), and the mixture is stirred for 4.5 hours. The precipitated crystals are collected by filtration, and dissolved in chloroform. The chloroform solution is washed with water, dried, and evaporated to remove the solvent to give (4R)-4-acetylthio-2-pyrrolidone (3.8 g).

reactant | (+)-(4R)-1-Acetyl-4-acetylthio-2-pyrrolidone | 6 g | C(C)(=O)N1C(C[C@H](C1)C(C)=O)=S | C8H11NO2S
solvent | hydrogen chloride methanol | Cl.CO
product | (4R)-4-acetylthio-2-pyrrolidone | 3.8 g, Yield: 81% | C(C)(=O)[C@@H]1CC(NC1)=S | C6H9NOS
